US06492403B1
a) 4-(Chlorocarbonyl)-2-methoxyphenyl acetate
To a stirred suspension of 1.00 g (4.76 mmol) of 4-acetoxy-3-methoxybenzoic acid (Pfaltz and Bauer, Inc.) in 4 mL of anhyd CH2Cl2 (under a CaSO4 drying tube) was added 4.15 mL (47.6 mmol) of oxalyl chloride followed by 25 μL of anhyd DMF. After stirring for 4 h at room temperature, the mixture was concentrated in vacuo to afford the title compound as light yellow crystals (1.12 g, 103%). 1H-NMR (300 MHz, CDCl3) δ7.81 (dd, 1H, J=8.4, 2.1 Hz), 7.66 (d, 1H, 2.1 Hz), 7.19 (d, 1H, 8.4 Hz), 3.91 (s, 3H), and 2.35 (s, 3H).

reactant | 4-acetoxy-3-methoxybenzoic acid | 4.76 mmol, 1.00 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)OC | C10H10O5
reactant | oxalyl chloride | 47.6 mmol, 4.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 25 μL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-(Chlorocarbonyl)-2-methoxyphenyl acetate | 1.12 g, 103% | C(C)(=O)OC1=C(C=C(C=C1)C(=O)Cl)OC | C10H9ClO4
